US07968570B2
A solution of benzylamine (0.655 mL, 6 mmol) in benzene (5 mL) was added to a stirred solution of 4-methyl-isobenzofuran-1,3-dione (0.81 g, 5 mmol) in dry benzene (20 mL). An exothermic reaction was observed during this addition. The resulting solution was stirred for an additional 1 h. After this time, zinc iodide (1.92 g, 6 mmol) was added in one portion and the resulting mixture heated to 80° C. To this suspension HMDS (1.48 mL, 7 mmol) in benzene (10 mL) was added slowly and stirred at 80° C. for 1 h. The reaction mixture was cooled to room temperature and treated with 0.5 N HCl (15 mL). The organic phase was separated and the aqueous was extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with aqueous NaHCO3 (10 mL), dried over MgSO4, filtered and concentrated to afford 2-benzyl-4-methyl-isoindole-1,3-dione (1 g, 80%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.69 (s, 3H), 4.83 (s, 2H), 7.26-7.59 (m, 7H), 7.67 (d, 1H).

reactant | benzylamine | 6 mmol, 0.655 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-methyl-isobenzofuran-1,3-dione | 5 mmol, 0.81 g | CC1=C2C(OC(C2=CC=C1)=O)=O | C9H6O3
reactant | HMDS | 7 mmol, 1.48 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | HCl | 0.5 N, 15 mL | Cl | ClH
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | zinc iodide | 6 mmol, 1.92 g | [I-].[Zn+2].[I-]
product | 2-benzyl-4-methyl-isoindole-1,3-dione | 1 g, 80% | C(C1=CC=CC=C1)N1C(C2=CC=CC(=C2C1=O)C)=O | C16H13NO2
